US05194602
Ethyl (20E)-20-chloro-3,3-ethylenedioxy-9α-hydroxy-16β-methylpregna-5,17(20)-dien-21-oate
Using the procedure of Example 18, 3,3-ethylenedioxy-9α-hydroxy-16β-methylandrost-5-en-17-one (3.60 g) was reacted with ethyl trichloroacetate (2.78 ml) in the presence of zinc dust (2.83 g) and diethylaluminium chloride (20 ml, 1M in hexane). Chromatography (silica gel, toluene/acetone 3/1) of the crude product (3.0 g) afforded the title compound as a single isomer.

reactant | 3,3-ethylenedioxy-9α-hydroxy-16β-methylandrost-5-en-17-one | 3.60 g | C1OC2(CC3=CC[C@H]4[C@@H]5C[C@@H](C([C@@]5(C)CC[C@@]4([C@]3(CC2)C)O)=O)C)OC1 | C22H32O4
reactant | ethyl trichloroacetate | 2.78 ml | ClC(C(=O)OCC)(Cl)Cl | C4H5Cl3O2
reactant | diethylaluminium chloride | 1M, 20 ml | [Cl-].C(C)[Al+]CC
catalyst | zinc | 2.83 g | [Zn] | Zn
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
product | Ethyl (20E)-20-chloro-3,3-ethylenedioxy-9α-hydroxy-16β-methylpregna-5,17(20)-dien-21-oate | Cl\C(\C(=O)OCC)=C\1/[C@H](C[C@H]2[C@@H]3CC=C4CC5(CC[C@]4(C)[C@]3(CC[C@]12C)O)OCCO5)C | C26H37ClO5
